US07115766B2
Synthesis of (Benzhydrylidene-amino)-acetic acid tert-butyl ester (3).
In a 50-mL round-bottom flask equipped with a water-jacketed condensor and magnetic stirring bar, a mixture of t-butyl chloroacetate (10 g, 66.4 mmole), benzophenone imine (8.02 g, 44.3 mmole), and anhydrous potassium carbonate (9.18 g, 66.4 mmole) was stirred overnight at 110° C. Using a course Buchner funnel, the solid inorganic salts were removed from the solution by filtration and the solids were washed with ethyl acetate (2×25 mL). The combined filtrates were diluted with ethyl acetate to a total volume of 100 mL. The organic mixture was washed with water (3×100 mL), dried (Na2SO4), filtered, and the solvent was removed in vacuo. The crude residue was recrystallized with hexanes to afford white crystals (5.24 g, 40%): m.p. 114–115° C. (Lit. m.p. 111–112° C.).3 1H-NMR (CDCl3) δ 1.46 (s, 9H), 4.12 (s, 2H), 7.18 (m, 2H), 7.34 (m, 3H), 7.45 (m, 3H), 7.66 (m, 2H). 13C-NMR (CDCl3) δ 28.13, 56.37, 80.99, 127.74, 128.01, 128.27, 128.61, 128.73, 128.76, 130.05, 130.34, 132.39, 136.25, 139.45, 169.82, 171.48

reactant | t-butyl chloroacetate | 66.4 mmole, 10 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | benzophenone imine | 44.3 mmole, 8.02 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | potassium carbonate | 66.4 mmole, 9.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | (Benzhydrylidene-amino)-acetic acid tert-butyl ester | 5.24 g, 40% | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
